US08703761B2
B. N-[1-(5-Benzyl-4-phenyl-thiazol-2-ylcarbamoyl)-1-methyl-ethyl]-3,4-diethoxy-benzamide
150 mg of 2-(3,4-Diethoxy-benzoylamino)-2-methyl-propionic acid and 130 mg of 5-Benzyl-4-phenyl-thiazol-2-ylamine (WO2006082952) were stirred in 2 ml of acetonitrile at room temperature. 120 mg of EDCl and 100 mg of HOBT were added and the reaction mixture was stirred at 50° C. for 2 days and cooled to room temperature. It was diluted with water and the resulting precipitates were collected by filtration followed by washing with water. The filter cake was then purified by column chromatography (heptane/ethyl acetate=3/1) to provide the title compound. 1H NMR (400 MHz. CD3OD) δ 1.34-1.54 (m, 3H) 1.44 (d, J=5.31 Hz, 3H) 1.65 (s, 7H) 4.14 (qd, J=6.95, 2.53 Hz, 4H) 4.23 (s, 2H) 7.01 (d, J=8.46 Hz, 1H) 7.16-7.26 (m, 3H) 7.26-7.45 (m, 6H) 7.47-7.67 (m, 4H). m/z 545.1 (MH+).

reactant | 2-(3,4-Diethoxy-benzoylamino)-2-methyl-propionic acid | 150 mg | C(C)OC=1C=C(C(=O)NC(C(=O)O)(C)C)C=CC1OCC | C15H21NO5
reactant | 5-Benzyl-4-phenyl-thiazol-2-ylamine | 130 mg | C(C1=CC=CC=C1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C16H14N2S
reactant | EDCl | 120 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 100 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | N-[1-(5-Benzyl-4-phenyl-thiazol-2-ylcarbamoyl)-1-methyl-ethyl]-3,4-diethoxy-benzamide | C(C1=CC=CC=C1)C1=C(N=C(S1)NC(=O)C(C)(C)NC(C1=CC(=C(C=C1)OCC)OCC)=O)C1=CC=CC=C1 | C31H33N3O4S
